US09302986B2
To a stirring solution of (Z)-tert-butyl 2-((4-(N,N-dimethylsulfamoyl)phenoxy)methyl)-3-fluoroallylcarbamate (279.0 mg, 0.72 mmol) in CH2Cl2 (4.0 mL) at room temperature was added trifluoroacetic acid (1.0 mL). The resulting mixture was stirred at room temperature for 30 min. All volatiles were removed in vacuo and the residue was co-evaporated with CH2Cl2 (2×20 mL). The resulting oil was taken up in ethyl acetate/MeOH (5:1; 3.0 mL) and then ethereal HCl (2.0 M in diethyl ether; 0.5 mL, 1.0 mmol) was added. The precipitate formed was isolated and dried under reduced pressure to afford (Z)-4-(2-(aminomethyl)-3-fluoroallyloxy)-N,N-dimethylbenzenesulfonamide hydrochloride (196.0 mg, 84%) as a white solid; m.p. 185-187° C.; 1H-NMR (300 MHz; d6-DMSO) δ ppm: 3.39 (6H, br s), 3.54 (2H, br s), 4.81 (2H, d, J 2.3 Hz), 7.16 (2H, d, J 9.0 Hz), 7.24 (1H, d, J 82.3 Hz), 7.25 (2H, br s), 7.77 (2H, d, J 9.0 Hz).

reactant | (Z)-tert-butyl 2-((4-(N,N-dimethylsulfamoyl)phenoxy)methyl)-3-fluoroallylcarbamate | 0.72 mmol, 279.0 mg | CN(S(=O)(=O)C1=CC=C(OC\C(\CNC(OC(C)(C)C)=O)=C/F)C=C1)C | C17H25FN2O5S
reactant | trifluoroacetic acid | 1.0 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | HCl | 1.0 mmol, 2.0 M, 0.5 mL | Cl | ClH
solvent | CH2Cl2 | 4.0 mL | C(Cl)Cl | CH2Cl2
product | (Z)-4-(2-(aminomethyl)-3-fluoroallyloxy)-N,N-dimethylbenzenesulfonamide hydrochloride | 196.0 mg, 84% | Cl.NC/C(/COC1=CC=C(C=C1)S(=O)(=O)N(C)C)=C/F | InChI=1S/C12H17FN2O3S.ClH/c1-15(2)19(16,17)12-5-3-11(4-6-12)18-9-10(7-13)8-14;/h3-7H,8-9,14H2,1-2H3;1H/b10-7-;
